US04594343
3-(Cyanodiphenylmethyl)-1-pyrrolidinecarboxylic acid, methyl ester
To a solution of 36.5 g (0.10 mole) of α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile and 8.7 g (0.11 mole) of pyridine in methylene chloride was added dropwise at 25° C., 10.4 g (0.11 mole) of methyl chloroformate. The solution was refluxed for 16 hr. To the refluxing solution was added 26.1 g (0.33 mole) of pyridine and 31.2 g (0.33 mole) additional methyl chloroformate. Heating at reflux was continued for 5 hr. The mixture was cooled and washed four times with water. The methylene chloride layer was dried and concentrated in vacuo. The residual oil was crystallized twice from a mix of petroleum ether (30°-60°) and isopropanol to give 22 g (68%) of title product, m.p. 133°-135° C.

reactant | α-(1-benzyl-3-pyrrolidinyl)-α,α-diphenylacetonitrile | 0.10 mole, 36.5 g | C(C1=CC=CC=C1)N1CC(CC1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
reactant | pyridine | 0.11 mole, 8.7 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.11 mole, 10.4 g | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 0.33 mole, 26.1 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.33 mole, 31.2 g | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(Cyanodiphenylmethyl)-1-pyrrolidinecarboxylic acid, methyl ester | 22 g, 68% | C(#N)C(C1CN(CC1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H20N2O2
